US07297713B2
5-(4-Aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile (98 mg, 0.5 mmol) was dissolved in dichloromethane (2 mL) and triethylamine (87 μL, 0.6 mmol) was added. Furan-2-carbonyl chloride (54 μL, 0.55 mmol) was added and the mixture was stirred 16 hours. The mixture was diluted with 50% ether in ethyl acetate and washed with water, saturated NaHCO3, 2N HCl, brine, dried over MgSO4, and passed through a plug of silica gel. The solution was concentrated to give N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-2-furamide (0.041 g).

reactant | 5-(4-Aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.5 mmol, 98 mg | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | triethylamine | 0.6 mmol, 87 μL | C(C)N(CC)CC | C6H15N
reactant | Furan-2-carbonyl chloride | 0.55 mmol, 54 μL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-2-furamide | 0.041 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NC(=O)C=1OC=CC1 | C17H13N3O2
